US04933350
A solution of methyl 2-phenyl-2-[N-(2,2-dimethoxyethyl)-2-methylpropanamido]acetate (72.3 g) in methanol (800 ml) was treated with a solution of sodium hydroxide (30 g) in water (200 ml). The mixture was stirred for 2.5 hours and then left to stand at room temperature for 18 hours. It was then concentrated to 500 ml and diluted with water (500 ml), washed with diethyl ether (2×200 ml), cooled to below 10° C., and acidified by treatment with hydrochloric acid (4N), maintaining the temperature below 10° C. The precipitated product was extracted with ethyl acetate (3×750 ml) and the combined extracts were washed with brine (300 ml), and evaporated, to give an off-white solid, which was recrystallised from a mixture of ethanol and ethyl acetate and washed with light petroleum, to give 2-phenyl-2-[N-(2,2-dimethoxyethyl)-2-methylpropanamido]acetic acid (67.2 g), in the form of a white solid, m.p. 147°-149° C. [Elemental analysis: C,62.3;H,7.6;N,4.54%; calculated: C,62.1; H,7.4;N,4.53%].

reactant | methyl 2-phenyl-2-[N-(2,2-dimethoxyethyl)-2-methylpropanamido]acetate | 72.3 g | C1(=CC=CC=C1)C(C(=O)OC)N(C(C(C)C)=O)CC(OC)OC | C17H25NO5
reactant | sodium hydroxide | 30 g | [OH-].[Na+]
solvent | methanol | 800 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | 2-phenyl-2-[N-(2,2-dimethoxyethyl)-2-methylpropanamido]acetic acid | 67.2 g | C1(=CC=CC=C1)C(C(=O)O)N(C(C(C)C)=O)CC(OC)OC | C16H23NO5
